US07579359B2
A solution of 1-(benzyloxy)-2-propyl-1H-imidazo[4,5-c]quinoline (2.6 g, 8.2 mmol) in dichloromethane (100 mL) was cooled to approximately 0° C., and 3-chloroperoxybenzoic acid (3.6 g of approximately 77% pure material, 16 mmol) was added over a period of several minutes. The reaction was stirred for ten minutes at 0° C., stirred for 90 minutes at room temperature, washed with saturated aqueous sodium bicarbonate (2×35 mL, containing 1 mL of 25% w/w aqueous sodium hydroxide), dried over potassium carbonate, and filtered. The resulting solution was cooled to 0° C., and trichloroacetyl isocyanate (1.22 mL, 10.3 mmol) was added with stirring. The reaction was stirred for 15 minutes at 0° C., stirred for 75 minutes at room temperature, and concentrated under reduced pressure. The residue was dissolved in methanol (60 mL), and sodium methoxide (6.3 mL of a 25% w/w solution in methanol, 29 mmol) was added with stirring. The mixture was stirred at room temperature overnight. A precipitate formed, and the reaction mixture was cooled to approximately 0° C. The precipitate was collected by filtration, recrystallized from methanol/water, and dried overnight in a vacuum oven at 70° C. to provide 1.11 g of 1-(benzyloxy)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as white crystals, mp 164-166° C.

reactant | 1-(benzyloxy)-2-propyl-1H-imidazo[4,5-c]quinoline | 8.2 mmol, 2.6 g | C(C1=CC=CC=C1)ON1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C20H19N3O
reactant | 3-chloroperoxybenzoic acid | 16 mmol, 3.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | trichloroacetyl isocyanate | 10.3 mmol, 1.22 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(benzyloxy)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.11 g | C(C1=CC=CC=C1)ON1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C20H20N4O
